US08048899B2
To a solution of 300 g (1.175 mol) of toluene-4-sulfonic acid tetrahydropyran-4-yl ester in DMF (3 L) are added 268 g (2.35 mol) potassium thioacetate, followed by a catalytic amount of NaI (0.12 g, 10 mol %) at room temperature. After complete addition, the reaction is heated to 50° C. for 20 h. The reaction mixture is partitioned between TBME (3 L) and water (3 L), the aqueous layer is extracted with TBME (2 L), then saturated with NaCl and extracted again with TBME (2×2 L). The combined organic extracts are dried over Na2SO4, filtered and the solvent is removed under reduced pressure to afford 153 g of thioacetic acid S-(tetrahydro-pyran-4-yl)ester. Yield: 81%; ES-MS: m/z 161 [M+H].

reactant | toluene-4-sulfonic acid tetrahydropyran-4-yl ester | 1.175 mol, 300 g | O1CCC(CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C12H16O4S
reactant | potassium thioacetate | 2.35 mol, 268 g | C(C)(=S)[O-].[K+]
solvent | DMF | 3 L | CN(C)C=O | C3H7NO
catalyst | NaI | 0.12 g | [Na+].[I-]
product | thioacetic acid S-(tetrahydro-pyran-4-yl)ester | 153 g, Yield: 81% | O1CCC(CC1)SC(C)=O | C7H12O2S
